US08835648B2
2-(5-Bromo-2-chloro-phenyl)-imidazo[4,5-c]pyridine-3-carboxylic acid tert-butyl ester
Method C—Step c To a mixture of 2-(5-Bromo-2-chloro-phenyl)-3H-imidazo[4,5-c]pyridine in dcm (50 mL), Boc2O (0.36 g, 16.36 mmol) and DMAP (0.20 g, 1.63 mmol) were added and the reaction mixture was left stirring at room temperature overnight. The solvent was then removed under reduced pressure and the crude was purified by filtration through a Si column (ethyl acetate as eluent) to obtain 4.80 g of the title compound (80%).

reactant | 2-(5-Bromo-2-chloro-phenyl)-3H-imidazo[4,5-c]pyridine | BrC=1C=CC(=C(C1)C1=NC2=C(C=NC=C2)N1)Cl | C12H7BrClN3
reactant | Boc2O | 16.36 mmol, 0.36 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 1.63 mmol, 0.20 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(5-Bromo-2-chloro-phenyl)-imidazo[4,5-c]pyridine-3-carboxylic acid tert-butyl ester | 4.80 g, 80% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=NC=C2)C2=C(C=CC(=C2)Br)Cl | C17H15BrClN3O2
